US06635633B2
E. Dimethyl-(3-piperidin-4-yl-1H-pyrrolo[3,2-c]pyridin-6-yl)-amine
The 4-(6-dimethylamino-1H-pyrrolo[3,2-c]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (135 mg, 0.39 mmol) was set stirring in 1:1 TFA/CH2Cl2. After 45 min the mixture was evaporated. The residue was dissolved in MeOH (10 mL) and neutralized with DOWEX 550A OH anion exchange resin to pH 8. The resin was then filtered off and MeOH was removed under reduced pressure to give 96 mg (100%) of a yellow solid. MS (electrospray): exact mass calculated for C14H20N4, 244.17; m/z found, 245.2 [M++H]. 1H NMR (CDCl3, 400 MHz): 9.23 (br s, 1H), 8.54 (s, 1H), 6.67 (s, 1H), 6.31 (d, J=0.98 Hz, 1H), 3.15 (d, J=2.13 Hz, 2H), 3.02 (s, 6H), 2.91-2.81 (m, 1H), 2.81-2.72 (m, 2H), 2.01 (d, J=12.52 Hz, 2H), 1.69-1.52 (m, 2H).

reactant | 4-(6-dimethylamino-1H-pyrrolo[3,2-c]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.39 mmol, 135 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=C1C=NC(=C2)N(C)C | C19H28N4O2
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Dimethyl-(3-piperidin-4-yl-1H-pyrrolo[3,2-c]pyridin-6-yl)-amine | 96 mg, 100% | CN(C1=CC2=C(C=N1)C(=CN2)C2CCNCC2)C | C14H20N4
